US05032301
Preparation of 2,4-difluoro-6-(1,1,2,3,3,3-hexafluoro-1-phenoxy-2-propyl)1,3,5-triazine
One g (0.1 mole) of CsF and 22 g (0.1 mole) of 1-phenoxy perfluoropropene and 10 g (0.1 mole) of cyanuric fluoride are placed into a Parr bomb. The bomb is sealed and stirred at 100°-130° C. for 16 hours. After cooling, the solids are filtered off and 30 g of oil are obtained. This is distilled to produce the product compound as an oil with a boiling point of 195° C. in a yield of 39 percent.

reactant | CsF | 0.1 mole | [F-].[Cs+]
reactant | 1-phenoxy perfluoropropene | 0.1 mole, 22 g | O(C1=CC=CC=C1)C(=C(C(F)(F)F)F)F | C9H5F5O
reactant | cyanuric fluoride | 0.1 mole, 10 g | N1=C(F)N=C(F)N=C1F | C3F3N3
product | 2,4-difluoro-6-(1,1,2,3,3,3-hexafluoro-1-phenoxy-2-propyl)1,3,5-triazine | 30 g, yield of 39 percent | FC1=NC(=NC(=N1)F)C(C(OC1=CC=CC=C1)(F)F)(C(F)(F)F)F | C12H5F8N3O
